US07884121B2
To the cooled (ice-water bath) suspension of 1,1′-carbonyldiimidazole (178.4 g, 1.10 moles) in dichloromethane (720 mL) was added N-ethylmethylamine (59.1 g, 1 mole) keeping the internal temperature below 10° C. during addition. The reaction mixture was stirred at 20-25° C. for 2-3 hours and then cooled to 0-5° C. The reaction mixture was quenched by slow addition of water (720 mL) keeping the IT<10° C. The aqueous and organic phases were separated and the aqueous phase was extracted with dichloromethane. The combined organic extracts were washed with water. The organic phase was concentrated to give N-ethyl-N-methyl-1H-imidazole-1-carboxamide (138 g). 1H NMR (CDCl3) δ7.90 (s, 1H); 7.24 (s, 1H); 7.08 (s, 1H); 3.47 (q, J=7.2 Hz, 2H); 3.07 (s, 3H); 1.27 (t, J=7.2 Hz, 3H).

reactant | 1,1′-carbonyldiimidazole | 1.10 moles, 178.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-ethylmethylamine | 1 mole, 59.1 g | C(C)NC | C3H9N
solvent | dichloromethane | 720 mL | ClCCl | CH2Cl2
product | N-ethyl-N-methyl-1H-imidazole-1-carboxamide | 138 g | C(C)N(C(=O)N1C=NC=C1)C | C7H11N3O
